US05605914
To a stirred solution of benzaldehyde (1.58 mL, 15.5 mmol) in 10 mL of absolute ethanol at room temperature under nitrogen was added (R)-α-methylbenzylamine (2.0 mL, 15.51 mmol, 99% ee.). The reaction mixture was stirred for 3 hours. The reaction solution was then dried over magnesium sulfate and diluted to a 60 mL volume with EtOH. Ethanol washed Raney-Ni (~ 1.5 g) was added and the resulting suspension was treated with 58 psi of H2 in a Parr Type Shaker. After 1 day, additional Raney-Ni (~ 1 g) and 30 mL of ethanol were added and the hydrogenolysis continued for 3 days. The reaction mixture was filtered through. Celite to remove the catalyst and concentrated to afford 3.11 g (95%) of N-benzyl (R)-α-methylbenzylamine as a pale yellow oil contaminated with ~ 5% of benzyl alcohol and (R)-α-methylbenzylamine; 1H NMR (DMSO-d6, 250 MHz) δ 7.1-7.5 (m, 10 H, Ar), 3.68 (q, 1 H, J=6.6 Hz), 3.48 (dd, 2 H, J1 =13.6 Hz, J2 =20.5 Hz), 1.26 (d, 3 H, J=6.6 Hz, CH3); 13C NMR (DMSO-d6) δ 146.1, 141.0, 128.2, 128.0, 127.8, 126.5, 126.4, 56.7, 50.6, 24.5. This mixture was used directly in the next reaction.

reactant | benzaldehyde | 15.5 mmol, 1.58 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | (R)-α-methylbenzylamine | 15.51 mmol, 2.0 mL | C[C@H](C1=CC=CC=C1)N | C8H11N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-benzyl (R)-α-methylbenzylamine | 3.11 g, 95% | C(C1=CC=CC=C1)N[C@@H](C1=CC=CC=C1)C | C15H17N
